US06518264B2
A solution of 76 mg of (2-{4-[3-({1-[bis-(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)phenyl]piperazin-1-yl}-2-oxoethyl)carbamic acid tert-butyl ester in 2.5 cm3 of formic acid is stirred for 1 hour at a temperature close to 45° C. The reaction medium is concentrated to dryness under reduced pressure (5 kPa) at a temperature close to 30° C., taken up in 10 cm3 of ethyl acetate and alkalinized with 10 cm3 of a saturated aqueous sodium bicarbonate solution. After separating after settling out, the organic phase is washed with 10 cm3 of water, dried over magnesium sulfate, filtered and concentrated to dryness under reduced pressure (1 kPa) at a temperature close to 40° C. 51 mg of 2-amino-1-{4-[3-({1-[bis-(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)phenyl]piperazin-1-yl}ethanone are thus obtained in the form of a beige lacquer [1H NMR spectrum (300 MHz, CDCl3, δ in ppm): from 1.95 to 2.25 (broad unresolved complex, 2H), 2.77 (s, 3H), from 3.10 to 3.30 (mt, 4H), from 3.50 to 3.60 (mt, 2H), 3.56 (broad s, 2H), from 3.75 to 3.90 (mt, 4H), 4.34 (mt, 2H), 4.50 (s, 1H), 6.84 (broad d, J=8 Hz, 1H), 6.91 (dd, J=8 and 2 Hz, 1H), 7.01 (mt, 1H), from 7.20 to 7.40 (mt, 9H)].

reactant | (2-{4-[3-({1-[bis-(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)phenyl]piperazin-1-yl}-2-oxoethyl)carbamic acid tert-butyl ester | 76 mg | C(C)(C)(C)OC(NCC(=O)N1CCN(CC1)C1=CC(=CC=C1)CS(=O)(=O)C=C1CN(C1)C(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)=O | C35H40Cl2N4O5S
solvent | formic acid | 2.5 cm3 | C(=O)O | CH2O2
product | 2-amino-1-{4-[3-({1-[bis-(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)phenyl]piperazin-1-yl}ethanone | 51 mg | NCC(=O)N1CCN(CC1)C1=CC(=CC=C1)CS(=O)(=O)C=C1CN(C1)C(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C30H32Cl2N4O3S
